US06087452
Synthesis of Nα,Nα -bis (carboxymethyl)-L-lysine (ε-amino-NTA)
Bromacetic acid (28 g, 200 mmole) was dissolved in 100 ml of 2 M sodium hydroxide (NaOH) and cooled to 0° C. A solution of 28 g (100 mmole) of N'-benzyloxycarbonyl-L-lysine in 150 ml of 2 M NaOH was slowly added dropwise into the bromacetic acid solution while stirring in a 0° C. cooling bath. After 2 hours, the cooling bath was removed and the solution was stirred overnight at room temperature. The solution was then heated for two hours at 50° C. and 300 ml of 1 M hydrochloric acid (HCl) was added dropwise. The mixture was then cooled to room temperature allowing the N'-benzyloxycarbonyl-nitrilotriacetic acid (Z-NTA) to precipitate. The Z-NTA was collected by filtration and further purified by dissolving in 1 M NaOH, re-precipitating with the same amount of 1 M HCl and filtering. The dissolving and precipitating cycle was repeated twice.

reactant | Bromacetic acid | 200 mmole, 28 g | BrCC(=O)O | C2H3BrO2
reactant | N'-benzyloxycarbonyl-L-lysine | 100 mmole, 28 g | C(C1=CC=CC=C1)OC(=O)NCCCC[C@H](N)C(=O)O | C14H20N2O4
solvent | sodium hydroxide | 2 M, 100 ml | [OH-].[Na+]
solvent | NaOH | 2 M, 150 ml | [OH-].[Na+]
product | Nα,Nα -bis (carboxymethyl)-L-lysine | C(=O)(O)CN([C@@H](CCCCN)C(=O)O)CC(=O)O | C10H18N2O6
